US07968542B2
Synthesis of 5-{1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid 2-(pyridin-4-yl)ethylamide
2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (0.11 g, 0.38 mmol) and 5-hydrazinocarbonylthiophene-2-carboxylic acid (2-pyridin-4-yl)ethylamide (0.10 g, 0.34 mmol) prepared in Reference Synthetic Example 17 were suspended in N,N-dimethylformamide (2.0 mL) and left at 100° C. for 5 hours and then at room temperature for 20 hours. Water (0.20 mL) was added with stirring, and the precipitated solid was recovered by filtration, washed with chloroform and dried to give the desired product, 5-{1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid 2-(pyridin-4-yl)ethylamide (yield 66%).

reactant | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.38 mmol, 0.11 g | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | 5-hydrazinocarbonylthiophene-2-carboxylic acid (2-pyridin-4-yl)ethylamide | 0.34 mmol, 0.10 g | N1=CC=C(C=C1)CCNC(=O)C=1SC(=CC1)C(=O)NN | C13H14N4O2S
reactant | Water | 0.20 mL | O | H2O
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 5-{1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid 2-(pyridin-4-yl)ethylamide | yield 66% | N1=CC=C(C=C1)CCNC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC(=C(C=C1)Cl)Cl | C25H20Cl2N4O3S2
